US07935722B2
Cyclopropanecarboxylic acid(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-amide
Prepare the title compound from cyclopropanecarboxylic acid(4-oxocyclohexyl)amide (51.3 g, 283 mmol) and 4-cyanophenylhydrazine hydrochloride (48.0 g, 283 mmol) by essentially following procedures as described in Preparation 3 to obtain 57.0 g (72%) of a pale yellow solid. mp: 231-233° C.; MS (ES): m/z 280 (M+1).

reactant | cyclopropanecarboxylic acid(4-oxocyclohexyl)amide | 283 mmol, 51.3 g | O=C1CCC(CC1)NC(=O)C1CC1 | C10H15NO2
reactant | 4-cyanophenylhydrazine hydrochloride | 283 mmol, 48.0 g | Cl.C(#N)C1=CC=C(C=C1)NN
product | Cyclopropanecarboxylic acid(6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-amide | C(#N)C=1C=C2C=3CC(CCC3NC2=CC1)NC(=O)C1CC1 | C17H17N3O
